Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.95322465098
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1]#[C:2][C:5]([H:6])([H:7])[C:8](=[O:9])[H:10].[O:3][H:4],4.64523248972
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]=[O:11]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@@:8]1([H:9])[C:10][O:11]1,2.04070006984
[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:11](=[O:10])[H:12],-3.5143407285
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-2.86851056558
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11],-2.71029345292
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:1]=[C:2],1.6256295318
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]1,-1.33621283531
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[H:1][C:2][C:9]([H:10])([H:11])[H:12],8.15098817
[H:6].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:7]([H:8])([H:9])[O:10][H:11]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.2491402411
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],2.61521461712
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.80289617666
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2],1.6376781616
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]=[O:2],2.59541289137
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],6.16266828775
[H:1][C:2]=[C:3]([H:4])[H:5]>>[C:2]=[C:3]([H:4])[H:5].[H:1],3.90259507919
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],1.76849694857
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-7.4774487062800015
[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.39589268658
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2](=[C:3](/[H:4])[C:6]([H:7])([H:8])[C:9]([H:5])[H:10])[C:11]([H:12])([H:13])[H:14],-0.0292260236902
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])[H:15],1.03326804344
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]1([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],-0.34027057191
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.81181768073
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12],-3.7515210037
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.61870229302
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:10][H:11])=[C:12]([H:13])[H:14].[H:9],1.44083128266
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:6],1.75232112441
[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-5.33931547252
[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.5595623098
